US07776864B2
Step 1: 2-Ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol
A solution of 5.00 g 3-amino-5-ethyl-1,2,4-triazole and 15.00 g diethyl phenylmalonate in 18 ml N,N-dibutylbutan-1-amine is stirred at 185° C. over night. The solution is diluted with 5N NaOH solution, the resulting mixture is stirred for 30 min. The aqueous layer is washed with diethylether, acidified at 0° C. with concentrated HCl until precipitation of the product is complete. The precipitate is collected by filtration to yield the product, which is used without further purification.

reactant | 3-amino-5-ethyl-1,2,4-triazole | 5.00 g | NC1=NNC(=N1)CC | C4H8N4
reactant | diethyl phenylmalonate | 15.00 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
solvent | N,N-dibutylbutan-1-amine | 18 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | NaOH | 5N | [OH-].[Na+]
product | 2-Ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol | C(C)C1=NN2C(N=C(C(=C2O)C2=CC=CC=C2)O)=N1 | C13H12N4O2
